US07253192B2
C] 2-(2-Fluoro-4-methoxy-phenyl)-2-methyl-[1,3]dioxolane
A solution of 5.00 g (30.00 mmol) 2-fluoro-4-methoxyacetophenone, 1.11 ml (33.00 mmol) ethylene glycol and 0.28 g (1.49 mmol) p-toluene sulfonic acid hydrate in 50 ml toluene was refluxed in a Dean-Stark apparatus for 2.5 days. After 0.5 and 1.5 days additional 1.11 ml (33.00 mmol) ethylene glycol and 0.28 g (1.49 mmol) p-toluene sulfonic acid hydrate were added. After cooling, the reaction was diluted in ether and washed with aqueous saturated NaHCO3 (two times) and aqueous 10% NaCl solution. The water phases were extracted with ether, the organic phase was dried (Na2SO4) and evaporated. The crude product was purified by flash chromatography (SiO2; n-heptane/AcOEt=95:5) to give 4.90 g of the title compound as brown liquid (with ca 10% of starting material, seen in 1H-NMR).

reactant | 2-fluoro-4-methoxyacetophenone | 30.00 mmol, 5.00 g | CC(=O)C1=C(C=C(C=C1)OC)F | C9H9FO2
reactant | ethylene glycol | 33.00 mmol, 1.11 ml | C(CO)O | C2H6O2
reactant | ethylene glycol | 33.00 mmol, 1.11 ml | C(CO)O | C2H6O2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | ether | CCOCC | C4H10O
catalyst | p-toluene sulfonic acid hydrate | 1.49 mmol, 0.28 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
catalyst | p-toluene sulfonic acid hydrate | 1.49 mmol, 0.28 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 2-(2-Fluoro-4-methoxy-phenyl)-2-methyl-[1,3]dioxolane | 4.90 g, ca 10% | FC1=C(C=CC(=C1)OC)C1(OCCO1)C | C11H13FO3
